US08492582B2
Phenol (0.029 mL), cesium carbonate (0.11 g), 2,2,6,6-tetramethylheptane-3,5-dione (3.4 μL), and copper(I) chloride (8.2 mg) were added to a 1-methyl-2-pyrrolidone (0.60 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-iodobenzamido)-4-phenylbenzoate (0.10 g), followed by stirring under a nitrogen atmosphere at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, and then 2,2,6,6-tetramethylheptane-3,5-dione (3.4 μL) and copper(I) chloride (8.2 mg) were added thereto, followed by stirring under a nitrogen atmosphere at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-95% hexane/ethyl acetate] to obtain 0.049 g of tert-butyl 2-(2-(benzyloxy)-5-phenoxybenzamido)-4-phenylbenzoate (0.049 g).

reactant | Phenol | 0.029 mL | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 0.11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 3.4 μL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | tert-butyl 2-(2-(benzyloxy)-5-iodobenzamido)-4-phenylbenzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)I | C31H28INO4
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 3.4 μL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | copper(I) chloride | 8.2 mg | [Cu]Cl
catalyst | copper(I) chloride | 8.2 mg | [Cu]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1-methyl-2-pyrrolidone | 0.60 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 2-(2-(benzyloxy)-5-phenoxybenzamido)-4-phenylbenzoate | 0.049 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1=CC=CC=C1 | C37H33NO5
